US07294616B2
2-Bromopyridine (650 μL), 4-nitrophenylboronic acid (1.479 g) and palladium tetrakistriphenylphosphine (391.5 mg) were added to a mixture of 40 mL of dimethoxyethane and 10 mL of 2.0 M aqueous potassium carbonate under an atmosphere of dry N2. The reaction mixture was heated at 95° C. overnight. The reaction mixture was then cooled to room temperature and diluted with water (200 mL). The resulting precipitate was collected, washed with water and air-dried. The dried material was purified using silica gel chromatography to give 1.40 g of 2-(4-nitrophenyl)pyridine.

reactant | 2-Bromopyridine | 650 μL | BrC1=NC=CC=C1 | C5H4BrN
reactant | 4-nitrophenylboronic acid | 1.479 g | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | dimethoxyethane | 40 mL | C(OC)COC | C4H10O2
reactant | potassium carbonate | 2.0 M, 10 mL | C([O-])([O-])=O.[K+].[K+]
solvent | water | 200 mL | O | H2O
product | 2-(4-nitrophenyl)pyridine | 1.40 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC=CC=C1 | C11H8N2O2
